US05965730
4-(3,4-Diethoxybenzylidene)-2-methyloxazol-5(4H)-one (100 g) is added to acetone (200 ml) and water (400 ml), and the mixture is heated under reflux for 3.5 hours. The mixture is evaporated to remove the acetone, and cooled to room temperature. The precipitates are collected by filtration, and washed with water to give N-acetyl-3-(3,4-diethoxyphenyl)dehydroalanine (99 g).

reactant | 4-(3,4-Diethoxybenzylidene)-2-methyloxazol-5(4H)-one | 100 g | C(C)OC=1C=C(C=C2N=C(OC2=O)C)C=CC1OCC | C15H17NO4
reactant | acetone | 200 ml | CC(=O)C | C3H6O
solvent | water | 400 ml | O | H2O
product | N-acetyl-3-(3,4-diethoxyphenyl)dehydroalanine | 99 g | C(C)(=O)NC(=CC1=CC(=C(C=C1)OCC)OCC)C(=O)O | C15H19NO5
